*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.4
* < ILD_dielectric_const = 4.4
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_0 1 2 3 4 REF
C_C1 1 REF 0.9007305069446pf
C_C2 1 2 14.692716921235pf
C_C3 1 3 0.0207852741636pf
C_C4 1 4 0.2108779689041pf
C_C5 2 REF 1.0946966474839pf
C_C6 2 3 0.1091153838595pf
C_C7 3 REF 0.4331740206087pf
C_C8 3 4 6.2646152830429pf
C_C9 4 REF 0.4330333247151pf
L_L1 3 5 1.3066007775139nh
R_RL1 5 4 -1.03870607e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_1 1 2 3 4 REF
C_C1 1 REF 0.7507309884849pf
C_C2 1 2 15.063241635928pf
C_C3 1 3 0.0202715636999pf
C_C4 1 4 0.2127292182929pf
C_C5 2 REF 0.9476588932979pf
C_C6 2 3 0.1092494671138pf
C_C7 3 REF 0.4336153897172pf
C_C8 3 4 4.6401670031123pf
C_C9 4 REF 0.4324231496576pf
R_R1 1 2 974.11021404219
L_L1 3 5 1.3079268471448nh
R_RL1 5 4 3.4900406774e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_2 1 2 3 4 REF
C_C1 1 REF 0.6336132011461pf
C_C2 1 2 15.462322208304pf
C_C3 1 3 0.0195868539619pf
C_C4 1 4 0.2155102574094pf
C_C5 2 REF 0.8346757102186pf
C_C6 2 3 0.1096745778445pf
C_C7 3 REF 0.4339288892994pf
C_C8 3 4 3.5053510627603pf
C_C9 4 REF 0.4318119760743pf
R_R1 1 2 989.7326934432
L_L1 3 5 1.3090313293346nh
R_RL1 5 4 2.1181736088e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_3 1 2 3 4 REF
C_C1 1 REF 0.5235532450148pf
C_C2 1 2 16.004118221732pf
C_C3 1 3 0.0185075899963pf
C_C4 1 4 0.2201368803752pf
C_C5 2 REF 0.7312101099116pf
C_C6 2 3 0.1105355083039pf
C_C7 3 REF 0.4342071005175pf
C_C8 3 4 2.5284335785068pf
C_C9 4 REF 0.4310989035761pf
L_L1 3 5 1.3101491364255nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_4 1 2 3 4 REF
C_C1 1 REF 0.4291218162487pf
C_C2 1 2 16.705723059038pf
C_C3 1 3 0.0169420535462pf
C_C4 1 4 0.2269517361576pf
C_C5 2 REF 0.6462049557712pf
C_C6 2 3 0.1119158335405pf
C_C7 3 REF 0.4344565833996pf
C_C8 3 4 1.7451548475572pf
C_C9 4 REF 0.4303825932597pf
L_L1 3 5 1.311265923126nh
R_RL1 5 4 -1.144170847e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_5 1 2 3 4 REF
C_C1 1 REF 0.3633087362745pf
C_C2 1 2 17.473398814003pf
C_C3 1 3 0.0150674453669pf
C_C4 1 4 0.2350345607198pf
C_C5 2 REF 0.5913264870374pf
C_C6 2 3 0.1136336052676pf
C_C7 3 REF 0.4346725356269pf
C_C8 3 4 1.2266054668065pf
C_C9 4 REF 0.4298538888908pf
L_L1 3 5 1.3121675335974nh
R_RL1 5 4 -2.645898581e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_6 1 2 3 4 REF
C_C1 1 REF 0.3166880386564pf
C_C2 1 2 18.311666540841pf
C_C3 1 3 0.0128789902542pf
C_C4 1 4 0.2442602928055pf
C_C5 2 REF 0.5570194613213pf
C_C6 2 3 0.1156622113586pf
C_C7 3 REF 0.4348881237766pf
C_C8 3 4 0.8712459595547pf
C_C9 4 REF 0.4295216915544pf
L_L1 3 5 1.3129075927479nh
R_RL1 5 4 -3.925718892e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_7 1 2 3 4 REF
C_C1 1 REF 0.2785530438245pf
C_C2 1 2 19.392783760989pf
C_C3 1 4 0.2564702821343pf
C_C4 2 REF 0.5350725670244pf
C_C5 2 3 0.1184457158908pf
C_C6 3 REF 0.4351529512936pf
C_C7 3 4 0.5875349729904pf
C_C8 4 REF 0.4293653259124pf
L_L1 3 5 1.3136047992043nh
R_RL1 5 4 -5.120879734e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_8 1 2 3 4 REF
C_C1 1 REF 0.248495620598pf
C_C2 1 2 20.757732826478pf
C_C3 1 4 0.2720854068565pf
C_C4 2 REF 0.5257068797837pf
C_C5 2 3 0.1221597075096pf
C_C6 3 REF 0.4354580244937pf
C_C7 3 4 0.368916895896pf
C_C8 4 REF 0.4294188212931pf
L_L1 3 5 1.3142617361471nh
R_RL1 5 4 -6.155082593e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_9 1 2 3 4 REF
C_C1 1 REF 0.2253903833107pf
C_C2 1 2 22.500263740748pf
C_C3 1 4 0.2920892518624pf
C_C4 2 REF 0.5292044072378pf
C_C5 2 3 0.1271812932648pf
C_C6 3 REF 0.4357699152429pf
C_C7 3 4 0.2076266354773pf
C_C8 4 REF 0.4296830578479pf
L_L1 3 5 1.3148436155849nh
R_RL1 5 4 -6.861349789e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_10 1 2 3 4 REF
C_C1 1 REF 0.2068676315911pf
C_C2 1 2 24.71060911242pf
C_C3 1 4 0.3173549770657pf
C_C4 2 REF 0.5444046039001pf
C_C5 2 3 0.1339110558941pf
C_C6 3 REF 0.4360267596701pf
C_C7 3 4 0.090701382738pf
C_C8 4 REF 0.4300940711725pf
L_L1 1 5 64.542430724499nh
R_RL1 5 2 7.3089225364025
L_L2 3 6 -27.4044237298nh
R_RL2 6 REF -584.6763956267
L_L3 3 7 1.3153302071027nh
R_RL3 7 4 -7.146511291e-5
L_L4 4 8 -28.6454396496nh
R_RL4 8 REF -584.6408873206
Kn_K1 L_L1 L_L2 1.0
Kn_K2 L_L1 L_L4 1.0
Kn_K3 L_L2 L_L3 -0.212893267148
Kn_K4 L_L2 L_L4 -1.0
Kn_K5 L_L3 L_L4 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_11 1 2 3 4 REF
C_C1 1 REF 0.1901111832734pf
C_C2 1 2 27.590498842695pf
C_C3 1 4 0.3499363837986pf
C_C4 2 REF 0.5711243345357pf
C_C5 2 3 0.1431578511967pf
C_C6 3 REF 0.4361541945834pf
C_C7 4 REF 0.4305752491477pf
L_L1 1 5 40.840216116789nh
R_RL1 5 2 2.4405193723654
L_L2 3 6 1.3157080945253nh
R_RL2 6 4 -6.884394429e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_12 1 2 3 4 REF
C_C1 1 REF 0.1715320559454pf
C_C2 1 2 31.405488209466pf
C_C3 1 4 0.3925228895939pf
C_C4 2 REF 0.6090238154616pf
C_C5 2 3 0.1559501768753pf
C_C6 3 REF 0.4360944291607pf
C_C7 4 REF 0.4310516880095pf
L_L1 1 5 25.518031124441nh
R_RL1 5 2 0.0120403484353
L_L2 3 6 1.3155919877901nh
R_RL2 6 4 -6.019983357e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_13 1 2 3 4 REF
C_C1 1 REF 0.145775239851pf
C_C2 1 2 36.751653796504pf
C_C3 1 4 0.4513612261685pf
C_C4 2 REF 0.6604324451052pf
C_C5 2 3 0.1744660745405pf
C_C6 3 REF 0.435801654964pf
C_C7 4 REF 0.4314950555507pf
L_L1 1 5 15.554983079688nh
R_RL1 5 2 0.2055703335967
L_L2 3 6 1.3152536137462nh
R_RL2 6 4 1.4058538056e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_14 1 2 3 4 REF
C_C1 1 REF 0.104512130506pf
C_C2 1 2 44.644441089672pf
C_C3 1 4 0.5372530401997pf
C_C4 2 REF 0.7304818637133pf
C_C5 2 3 0.2023074526493pf
C_C6 3 REF 0.4352605399326pf
C_C7 4 REF 0.4319479625679pf
R_R1 1 2 523.58922206103
L_L1 1 5 8.9562350530479nh
R_RL1 5 2 -0.84201045015
L_L2 3 6 1.3147134234029nh
R_RL2 6 4 -2.550926638e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_15 1 2 3 4 REF
C_C1 1 REF 0.029562031743pf
C_C2 1 2 57.563286452958pf
C_C3 1 4 0.6768389602143pf
C_C4 2 REF 0.8347629011771pf
C_C5 2 3 0.2482082564759pf
C_C6 3 REF 0.4344332720715pf
C_C7 4 REF 0.4325840166991pf
R_R1 1 2 268.00620076728
L_L1 1 5 5.5929591091222nh
R_RL1 5 2 2.061742338512
L_L2 3 6 1.3137750821336nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_16 1 2 3 4 REF
C_C1 1 2 83.596333873537pf
C_C2 1 4 0.9573073099522pf
C_C3 2 REF 1.0284630245102pf
C_C4 2 3 0.3406853409765pf
C_C5 3 REF 0.4331252203403pf
C_C6 4 REF 0.4339880950707pf
R_R1 1 2 146.17239482266
L_L1 1 5 2.4912556779032nh
R_RL1 5 2 -0.280235842375
L_L2 3 6 1.3119173924133nh
R_RL2 6 4 2.6030801628e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_17 1 2 3 4 REF
C_C1 1 2 152.47111188573pf
C_C2 1 4 1.6992236344568pf
C_C3 2 REF 1.5148954403243pf
C_C4 2 3 0.584604170555pf
C_C5 3 REF 0.4306547795544pf
C_C6 4 REF 0.4383825313762pf
R_R1 1 2 72.234416119312
L_L1 1 5 0.9312117011188nh
R_RL1 5 2 -0.098324598351
L_L2 1 6 43.234033231736nh
R_RL2 6 3 -0.075753478377
L_L3 1 7 42.510756160426nh
R_RL3 7 4 -0.076523995971
L_L4 2 8 43.332199761238nh
R_RL4 8 3 8.5468420045e-4
L_L5 2 9 42.612236708335nh
R_RL5 9 4 9.14563046e-4
L_L6 3 10 1.3071258253991nh
R_RL6 10 4 5.0698188852e-5
Kn_K1 L_L1 L_L2 0.0656449720296
Kn_K2 L_L1 L_L3 0.0659376968567
Kn_K3 L_L1 L_L4 -0.081024321576
Kn_K4 L_L1 L_L5 -0.081968982493
Kn_K5 L_L2 L_L3 0.9847906598999
Kn_K6 L_L2 L_L4 0.9892434196688
Kn_K7 L_L2 L_L5 0.9739131544955
Kn_K8 L_L2 L_L6 -0.135045667252
Kn_K9 L_L3 L_L4 0.9740084053011
Kn_K10 L_L3 L_L5 0.9890611004066
Kn_K11 L_L3 L_L6 0.03916176432
Kn_K12 L_L4 L_L5 0.9848255920431
Kn_K13 L_L4 L_L6 -0.134672440167
Kn_K14 L_L5 L_L6 0.0393371284375
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_18 1 2 3 4 REF
C_C1 1 2 511.14781342476pf
C_C2 1 4 5.5657727881465pf
C_C3 2 REF 3.9953514229009pf
C_C4 2 3 1.8517520632026pf
C_C5 3 REF 0.4210633975843pf
C_C6 4 REF 0.4641614228981pf
R_R1 1 2 19.95113158629
L_L1 1 5 22.651839547829nh
R_RL1 5 REF -0.066736873611
L_L2 1 6 0.1884307292598nh
R_RL2 6 2 -0.019051413139
L_L3 1 7 10.594786050016nh
R_RL3 7 3 -0.011393651654
L_L4 1 8 9.9233494133831nh
R_RL4 8 4 -0.012113293492
L_L5 2 9 22.52764579257nh
R_RL5 9 REF -0.088582108249
L_L6 2 10 10.635388210395nh
R_RL6 10 3 -5.078632323e-4
L_L7 2 11 9.9683908852263nh
R_RL7 11 4 -3.793852456e-4
L_L8 3 12 33.038272097894nh
R_RL8 12 REF -0.111520998029
L_L9 3 13 1.2824393265996nh
R_RL9 13 4 5.9660849868e-5
L_L10 4 14 32.358656022044nh
R_RL10 14 REF -0.111643841683
Kn_K1 L_L1 L_L2 0.0756598350575
Kn_K2 L_L1 L_L5 0.9958330480995
Kn_K3 L_L1 L_L8 0.824216169222
Kn_K4 L_L1 L_L10 0.8326754785021
Kn_K5 L_L2 L_L3 0.0523126134154
Kn_K6 L_L2 L_L4 0.0524302119876
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.080893815252
Kn_K9 L_L2 L_L7 -0.085175911123
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9379996470386
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9911262033863
Kn_K15 L_L3 L_L7 0.9286857727397
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.265034545668
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9292286581997
Kn_K21 L_L4 L_L7 0.9905297266649
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0856378136324
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8234646786913
Kn_K26 L_L5 L_L10 0.8318335100485
Kn_K27 L_L6 L_L7 0.9382488457922
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.263927135476
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0860649246181
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1507142074825
Kn_K35 L_L8 L_L10 0.980442858869
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_19 1 2 3 4 REF
C_C1 1 REF 14.52238376005pf
C_C2 1 3 7.2806119583524pf
C_C3 2 4 22.048905502853pf
C_C4 3 REF 0.4822488161471pf
C_C5 4 REF 0.2737396221863pf
R_R1 1 2 -7.457207513307
R_R2 1 4 -685.4269307176
R_R3 2 4 687.81243195852
L_L1 1 5 4.2996171955919nh
R_RL1 5 REF -9.62886066e-3
L_L2 1 6 0.2343846529243nh
R_RL2 6 2 0.1169635821143
L_L3 1 7 2.762355483574nh
R_RL3 7 3 0.0539252384129
L_L4 1 8 2.2001928435412nh
R_RL4 8 4 0.07281896633
L_L5 2 9 4.4944328655981nh
R_RL5 9 REF 0.1179562044456
L_L6 2 10 2.7002642025159nh
R_RL6 10 3 0.0121393460095
L_L7 2 11 2.0985274252506nh
R_RL7 11 4 0.0052332474551
L_L8 3 12 7.0564601192767nh
R_RL8 12 REF 0.0494556880861
L_L9 3 13 1.1713427513612nh
R_RL9 13 4 0.0014838680036
L_L10 4 14 6.5021793084953nh
R_RL10 14 REF 0.0696538378923
Kn_K1 L_L1 L_L2 0.0197081296374
Kn_K2 L_L1 L_L5 0.9735862880481
Kn_K3 L_L1 L_L8 0.7800868464823
Kn_K4 L_L1 L_L10 0.8134016807173
Kn_K5 L_L2 L_L3 0.1842277640686
Kn_K6 L_L2 L_L4 0.2339801615546
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.108285637969
Kn_K9 L_L2 L_L7 -0.094619786219
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0377637293909
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.768912961077
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9571548282414
Kn_K16 L_L3 L_L7 0.7257490566956
Kn_K17 L_L3 L_L8 0.9732357808711
Kn_K18 L_L3 L_L9 -0.48185172778
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7087679963084
Kn_K22 L_L4 L_L7 0.945740241555
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1897332077483
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0198405435332
Kn_K27 L_L5 L_L7 0.0147798528045
Kn_K28 L_L5 L_L8 0.78580219127
Kn_K29 L_L5 L_L9 -0.010341448677
Kn_K30 L_L5 L_L10 0.8229995968477
Kn_K31 L_L6 L_L7 0.7619225910003
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.498486146506
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1816541056914
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.3001101083116
Kn_K39 L_L8 L_L10 0.9143734912616
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_20 1 2 3 4 REF
C_C1 1 2 835.12737607pf
C_C2 1 4 9.0541379885969pf
C_C3 2 REF 6.2237784367846pf
C_C4 2 3 2.9977002392548pf
C_C5 3 REF 0.4117376487363pf
C_C6 4 REF 0.4864057413221pf
R_R1 1 2 23.157284458441
L_L1 1 5 9.0655703895643nh
R_RL1 5 REF -0.078971835229
L_L2 1 6 0.0541426981283nh
R_RL2 6 2 -2.806419037e-3
L_L3 1 7 4.7958550369511nh
R_RL3 7 3 -1.322380229e-3
L_L4 1 8 4.151255846491nh
R_RL4 8 4 -1.598512192e-3
L_L5 2 9 8.9954272656087nh
R_RL5 9 REF -0.081412994341
L_L6 2 10 4.8216469794971nh
R_RL6 10 3 1.0e-5
L_L7 2 11 4.1840316071796nh
R_RL7 11 4 2.5367927225e-5
L_L8 3 12 13.780358660699nh
R_RL8 12 REF -0.087410082058
L_L9 3 13 1.2390246679602nh
R_RL9 13 4 3.6942467576e-5
L_L10 4 14 13.128292661742nh
R_RL10 14 REF -0.087351071963
Kn_K1 L_L1 L_L2 0.0887000938275
Kn_K2 L_L1 L_L5 0.9970097500018
Kn_K3 L_L1 L_L8 0.8074602719093
Kn_K4 L_L1 L_L10 0.8269278272988
Kn_K5 L_L2 L_L3 0.0278183694955
Kn_K6 L_L2 L_L4 0.0225347417521
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078223524352
Kn_K9 L_L2 L_L7 -0.09130921222
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.013481959015
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.8637614037725
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9943739748121
Kn_K16 L_L3 L_L7 0.8572071063077
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.386359136625
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.8590601430171
Kn_K22 L_L4 L_L7 0.9935120802559
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.1310502015102
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8062939990005
Kn_K27 L_L5 L_L10 0.8254102825466
Kn_K28 L_L6 L_L7 0.8645871459697
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.3838957473
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.1320695463358
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.2288295563576
Kn_K36 L_L8 L_L10 0.9542346251106
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_21 1 2 3 4 REF
C_C1 1 2 105.13442403697pf
C_C2 1 4 1.1802923133146pf
C_C3 2 REF 1.1831284498982pf
C_C4 2 3 0.4199334841208pf
C_C5 3 REF 0.4292258602803pf
C_C6 4 REF 0.4316203984496pf
R_R1 1 2 104.8066506829
L_L1 1 5 0.3076226989297nh
R_RL1 5 2 -0.025546206865
L_L2 1 6 30.997157631006nh
R_RL2 6 3 5.6742760108e-4
L_L3 1 7 30.247958159551nh
R_RL3 7 4 8.1820076819e-5
L_L4 2 8 31.255733735968nh
R_RL4 8 3 6.7231296707e-4
L_L5 2 9 30.515147084036nh
R_RL5 9 4 7.9104832013e-4
L_L6 3 10 1.3010428556264nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L4 -0.091298767253
Kn_K2 L_L1 L_L5 -0.093805569192
Kn_K3 L_L2 L_L3 0.9788300295384
Kn_K4 L_L2 L_L4 0.9950670832647
Kn_K5 L_L2 L_L5 0.9737379467105
Kn_K6 L_L2 L_L6 -0.161424133016
Kn_K7 L_L3 L_L4 0.9741152221172
Kn_K8 L_L3 L_L5 0.9949469629867
Kn_K9 L_L3 L_L6 0.0439837254651
Kn_K10 L_L4 L_L5 0.9790079672297
Kn_K11 L_L4 L_L6 -0.16007970964
Kn_K12 L_L5 L_L6 0.0444742005534
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_22 1 2 3 4 REF
C_C1 1 REF 0.2205036093665pf
C_C2 1 2 36.064448912414pf
C_C3 1 4 0.4340990648376pf
C_C4 2 REF 0.7037355003108pf
C_C5 2 3 0.1747019985614pf
C_C6 3 REF 0.4306452129632pf
C_C7 4 REF 0.4260741644543pf
R_R1 1 2 244.08591233049
L_L1 1 5 0.8100090665057nh
R_RL1 5 2 0.2435028789541
L_L2 3 6 1.3072766276337nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_23 1 2 3 4 REF
C_C1 1 REF 0.355892501311pf
C_C2 1 2 16.927626287206pf
C_C3 1 3 0.0361728287912pf
C_C4 1 4 0.2272069349543pf
C_C5 2 REF 0.5778240602469pf
C_C6 2 3 0.1049537083625pf
C_C7 3 REF 0.4303734508325pf
C_C8 4 REF 0.4238337996257pf
R_R1 1 2 579.7757478022
L_L1 1 5 1.0855430689014nh
R_RL1 5 2 0.2125248682769
L_L2 3 6 1.3070581998378nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_24 1 2 3 4 REF
C_C1 1 REF 0.4163214521999pf
C_C2 1 2 9.6381834612091pf
C_C3 1 3 0.0683729906984pf
C_C4 1 4 0.1490814263266pf
C_C5 2 REF 0.542992706035pf
C_C6 2 3 0.0764635979003pf
C_C7 3 REF 0.428660364302pf
C_C8 4 REF 0.4212483623174pf
L_L1 1 5 1.643060091133nh
R_RL1 5 2 0.0820055034617
L_L2 3 6 1.3049276383843nh
R_RL2 6 4 -3.000485458e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_25 1 2 3 4 REF
C_C1 1 REF 0.4461581941911pf
C_C2 1 2 6.7038840991691pf
C_C3 1 3 0.0871543397105pf
C_C4 1 4 0.1152326322411pf
C_C5 2 REF 0.5347069753277pf
C_C6 2 3 0.0620392291969pf
C_C7 2 4 0.0441540201695pf
C_C8 3 REF 0.4266746230601pf
C_C9 4 REF 0.4187172826234pf
L_L1 1 5 1.8485065155073nh
R_RL1 5 2 -1.245253725e-3
L_L2 3 6 1.3022029880986nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_26 1 2 3 4 REF
C_C1 1 REF 0.4586845546715pf
C_C2 1 2 5.8735456486079pf
C_C3 1 3 0.0976836019861pf
C_C4 1 4 0.1029289390679pf
C_C5 2 REF 0.5362006007627pf
C_C6 2 3 0.0547091708086pf
C_C7 2 4 0.0598214987264pf
C_C8 3 REF 0.4253052342102pf
C_C9 4 REF 0.4170559882129pf
L_L1 1 5 1.9347069779785nh
R_RL1 5 2 -0.025792611332
L_L2 3 6 1.3010445211386nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param43_26

